US06498165B1
2-[4-Methoxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 4-methoxybenzylamine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 332.2 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.61 (s, 1H); 8.42 (br s, 1H); 8.12 (br s, 1H); 7.86 (m, 1H); 7.36 (m, 4H); 6.92 (m, 2H); 6.83 (d, J=5.5 Hz, 1H); 5.76 (br s, 1H); 4.68 (d, J=5.7 Hz, 2H); 3.83 (s, 3H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
product | 2-[4-Methoxybenzylamino]-4-[benzimidazol-1-yl]pyrimidine | COC1=CC=C(CNC2=NC=CC(=N2)N2C=NC3=C2C=CC=C3)C=C1 | C19H17N5O
